US08865712B2
d) 2-(6-Bromo-pyridin-2-yl)-3-hydroxy-2-hydroxymethyl-propionic acid ethyl ester
To the solution of para formaldehyde (9.6 g, 319.55 mmol) and sodium ethoxide (0.87 g, 12.784 mmol) in dry THF (250 ml) was added (6-bromo-pyridin-2-yl)-acetic acid ethyl ester (31.2 g, 127.82 mmol) at 0° C. to −10° C. and allowed the reaction mixture to stir at same temperature for 4 h. Solids formed in the reaction mixture were filtered and washed with ethyl acetate and the filtrate was concentrated to obtain crude product as a brown liquid. Yield=30.0 g (crude). TLC (30% ethyl acetate in hexane) Rf=0.28; LCMS: RtH8=0.702, M+1=304.0 and 306.0.

reactant | para formaldehyde | 319.55 mmol, 9.6 g | C=O | CH2O
reactant | sodium ethoxide | 12.784 mmol, 0.87 g | [O-]CC.[Na+]
reactant | (6-bromo-pyridin-2-yl)-acetic acid ethyl ester | 127.82 mmol, 31.2 g | C(C)OC(CC1=NC(=CC=C1)Br)=O | C9H10BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(6-Bromo-pyridin-2-yl)-3-hydroxy-2-hydroxymethyl-propionic acid ethyl ester | C(C)OC(C(CO)(CO)C1=NC(=CC=C1)Br)=O | C11H14BrNO4
